US04840963
Step D: Preparation of 5,6-Methylenedioxy-1-benzenesulfonyl-2-sulfamoylindole
A solution of 5,6-methylenedioxy-1-benzenesulfonylindole-2-sulfonyl chloride (3.66 gm, 9.15 mmol) in acetone (35 ml) was added dropwise to a solution of concentrated ammonium hydorxide (5 ml) in acetone (20 ml) which was cooled in an ice bath. After 1 hour the reaction was warmed to room temperature and the solvent was evaporated. The residue was suspended in cold water and crystalline solid was collected by filtration. This solid was dissolved in ethyl acetate, dried (anhydrous Na2SO4), evaporated, and the residue was triturated with diethyl ether to give crystalline product (1.75 gm), mp 229°-232° C.

reactant | 5,6-methylenedioxy-1-benzenesulfonylindole-2-sulfonyl chloride | 9.15 mmol, 3.66 gm | C1OC=2C=C3C=C(N(C3=CC2O1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)Cl | C15H10ClNO6S2
reactant | ammonium hydorxide | 5 ml | [OH-].[NH4+]
solvent | acetone | 35 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5,6-Methylenedioxy-1-benzenesulfonyl-2-sulfamoylindole | 1.75 gm | C1OC=2C=C3C=C(N(C3=CC2O1)S(=O)(=O)C1=CC=CC=C1)S(N)(=O)=O | C15H12N2O6S2
